US08859591B2
To a solution of (+\−)-methyl 6-(3-methyl-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butylamino)nicotinate (800 mg, 1.85 mmol) in methanol (5 mL) was added 2N aqueous sodium hydroxide (9.2 mL, 18.4 mmol). The resulting mixture was stirred at 20° C. for 2 h. Methanol was removed under reduced pressure and the residue was acidified by addition of 1N aqueous HCl to pH 3-4 and extracted with dichloromethane (30 mL×2). The combined organic layers were concentrated under reduced pressure. The residue was dissolved in DMF (10 mL). HATU (1.36 mg, 3.58 mmol) and N,N-di-iso-propylethylamine (1.15 mg, 8.95 mmol) were added. Methyl 3-aminopropanoate hydrochloride (370 mg, 2.68 mmol) was added. The resulting mixture was stirred at 30° C. for 1 h. The mixture was poured into brine (30 mL) and extracted with ethyl acetate (30 mL×2). The combined organic layers were washed with 1N aqueous HCl (30 mL), dried over anhydrous Na2SO4 and concentrated to dryness. The crude residue was purified silica gel chromatography to give (+\−)-methyl 3-(6-(3-methyl-1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butylamino)nicotinamido)propanoate (850 mg) as an oil. 1H NMR (400 MHz, CDCl3) δ 8.75 (s, 1H), 8.37 (d, J=12.0 Hz, 2H), 7.87 (d, J=8.4 Hz, 1H), 7.80 (s, 1H), 7.76-7.70 (m, 2H), 6.52 (s, 1H), 6.22 (d, J=8.4 Hz, 1H), 5.07 (d, J=4.0 Hz, 1H), 4.86 (d, J=9.2 Hz, 1H), 3.62-3.58 (m, 5H), 2.54 (t, J=5.6 Hz, 2H), 1.77-1.59 (m, 3H), 1.75-1.63 (m, 2H), 0.95 (d, J=6.0 Hz, 3H), 0.91 (d, J=6.0 Hz, 3H). (+\−)-methyl 3-(6-(3-methyl-1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butylamino)nicotinamido)propanoate was resolved by SFC (column: Chiralpak AD-3, 50×4.6 mm×3 μm; mobile phase: 40% methanol in CO2; modifier: 0.05% diethylamine; flow rate: 4 mL/min) to give methyl 3-(6-(3-methyl-1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butylamino)nicotinamido)propanoate, Isomer 1 (450 mg, retention time: 0.62 min) and methyl 3-(6-(3-methyl-1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butylamino)nicotinamido)propanoate, isomer 2 (400 mg, retention time: 1.30 min).

reactant | (+\−)-methyl 6-(3-methyl-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butylamino)nicotinate | 1.85 mmol, 800 mg | CC(CCNC1=NC=C(C(=O)OC)C=C1)CC=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F | C21H22F3N5O2
reactant | sodium hydroxide | 18.4 mmol, 2N, 9.2 mL | [OH-].[Na+]
reactant | HATU | 3.58 mmol, 1.36 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-di-iso-propylethylamine | 8.95 mmol, 1.15 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Methyl 3-aminopropanoate hydrochloride | 2.68 mmol, 370 mg | Cl.NCCC(=O)OC
reactant | methanol | 5 mL | CO | CH4O
solvent | brine | 30 mL | [Cl-].[Na+].O
product | (+\−)-methyl 3-(6-(3-methyl-1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butylamino)nicotinamido)propanoate | 850 mg | CC(CC(C=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F)NC1=NC=C(C(=O)NCCC(=O)OC)C=C1)C | C24H27F3N6O3
